US08835428B2
2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carboxamido)acrylic acid
Methyl 2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carboxamido)acrylate (125 mg, 0.298 mmol) was dissolved in THF and water in 2:1 ratio. Lithium hydroxide monohydrate (19 mg, 0.447 mmol) was added and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure. Crude compound was purified by washing with methanol to get 60 mg (50%) white solid as the required compound. MS: ES (+): m/z 407(M+1); 1HNMR (DMSO-d6, 300 MHz) δ: 9.732 (s, 1H), 8.989 (s, 1H), 8.714 (s, 1H), 7.894 (d, 2H), 7.784 (s, 1H), 7.638 (d, 2H), 7.377 (d, 2H), 7.121 (d, 2H), 6.232 (s, 1H), 5.921 (s, 1H), 5.918 (s, 3H).

reactant | Methyl 2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carboxamido)acrylate | 0.298 mmol, 125 mg | C1(=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)=C)=O)C | C22H20N4O5
reactant | water | O | H2O
reactant | Lithium hydroxide monohydrate | 0.447 mmol, 19 mg | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carboxamido)acrylic acid | 60 mg, 50% | C1(=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)O)=C)=O)C | C21H18N4O5
